US09126969B2
A solution of 230 mg of 1,1-diisopropyl-3-[3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]urea in solution in 40 eq of a 4N solution of hydrochloric acid in dioxane is stirred at 22° C. for approximately 4 hours, and precipitation occurs. The suspension is filtered through sintered glass and the solid is rinsed with dioxane and with isopropyl ether. The precipitate is dried in an oven. The precipitate is dissolved in 5 mL of 2N NaOH, and then extracted with 2 times 5 mL of ethyl acetate then 2 times 10 mL of ethyl acetate. The organic phases are dried over MgSO4, filtered and concentrated under vacuum in a rotary evaporator. The concentrate is purified by preparative HPLC with, as eluent, a gradient of water/acetonitrile containing respectively 0.07% of trifluoroacetic acid. 99 mg of 1,1-diisopropyl-3-{3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}urea are isolated in the form of a pale yellow powder. 1H NMR (400 MHz, DMSO-d6, δ in ppm): 1.25 (d, J=7.0 Hz, 12H); 2.90 (s, 3H); 3.03 (m, 2H); 3.23 (m, 2H); 3.58 (m, 2H); 3.87 (m, 4H); 7.12 (d, J=2.0 Hz, 1H); 7.24 (dd, J=2.0 and 9.0 Hz, 1H); 7.58 (d, J=9.0 Hz, 1H); 7.98 (s, 1H).

reactant | 1,1-diisopropyl-3-[3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]urea | 230 mg | C(C)(C)N(C(=O)NC=1C(=NN(C1)C1OCCCC1)C1=NC2=C(N1)C=C(C=C2)N2CCN(CC2)C)C(C)C | C27H40N8O2
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1,1-diisopropyl-3-{3-[6-(4-methylpiperazin-1-yl)-1H-benzimidazol-2-yl]-1H-pyrazol-4-yl}urea | 99 mg | C(C)(C)N(C(=O)NC=1C(=NNC1)C1=NC2=C(N1)C=C(C=C2)N2CCN(CC2)C)C(C)C | C22H32N8O
